US07144881B2
Step B: 4-(2-Fluoro-5-vinyl-phenyl)-morpholine
A mixture of 2-bromo-1-fluoro-4-vinyl-benzene (8 g), morpholine (20 mL), Pd2(dba)2 (1.83 g), di-t-butyl-biphenylphosphine (1.2 g), K3PO4 (17 g) in DME (60 mL) was stirred at reflux for 4 h. The reaction mixture was cooled down to room temperature, diluted with methylene chloride, and filtered. The filtrate was concentrated in vacuo. The crude product was purified by Flash Chromatography of Biotage eluting with 7% ethyl acetate in hexanes to give the title compound as an oil (5 g).

reactant | 2-bromo-1-fluoro-4-vinyl-benzene | 8 g | BrC1=C(C=CC(=C1)C=C)F | C8H6BrF
reactant | morpholine | 20 mL | N1CCOCC1 | C4H9NO
reactant | K3PO4 | 17 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DME | 60 mL | COCCOC | C4H10O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(2-Fluoro-5-vinyl-phenyl)-morpholine | 5 g | FC1=C(C=C(C=C1)C=C)N1CCOCC1 | C12H14FNO
